US08980888B2
<Step 1> Synthesis of 2-phenyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-7-amine hydrochloride
Concentrated hydrochloric acid (0.11 ml) and platinum(IV) dioxide (83 mg) were added to a methanol (183 ml) solution of 2-phenylimidazo[1,2-a]pyridin-7-amine hydrochloride (900 mg), and the obtained mixture was then stirred in a hydrogen atmosphere for 4 hours. Thereafter, platinum(IV) dioxide (83 mg) was added to the reaction solution, and the obtained mixture was further stirred in a hydrogen atmosphere for 14 hours 30 minutes. Thereafter, the reaction solution was filtered with Celite, and was then washed with methanol (15 ml). The filtrate was concentrated under reduced pressure, and diethyl ether (3.6 ml) was then added to the obtained residue to solidify it, so as to obtain the title compound (733 mg) in the form of a gray solid.

reactant | hydrochloric acid | 0.11 ml | Cl | ClH
reactant | 2-phenylimidazo[1,2-a]pyridin-7-amine hydrochloride | 900 mg | Cl.C1(=CC=CC=C1)C=1N=C2N(C=CC(=C2)N)C1
reactant | hydrogen | [H][H] | H2
catalyst | platinum(IV) dioxide | 83 mg | [Pt](=O)=O
catalyst | platinum(IV) dioxide | 83 mg | [Pt](=O)=O
solvent | methanol | 183 ml | CO | CH4O
product | 2-phenyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-7-amine hydrochloride | 733 mg | Cl.C1(=CC=CC=C1)C=1N=C2N(CCC(C2)N)C1 | InChI=1S/C13H15N3.ClH/c14-11-6-7-16-9-12(15-13(16)8-11)10-4-2-1-3-5-10;/h1-5,9,11H,6-8,14H2;1H
